US06403584B1
A mixture of N-(3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-benzyloxyphenylalanine (36 mg, 0.055 mmol) and 10% Pd/C (10 mg) were stirred vigorously under 1 atm of H2 until the starting material was consumed as judged by reverse phase HPLC analysis. The mixture was filtered through a pad of celite which was washed with MeOH and concentrated. The filtrate was triturated with Et2O to afford N-(3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-hydroxyphenylalanine as a solid.

reactant | N-(3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-benzyloxyphenylalanine | 0.055 mmol, 36 mg | C1(=CC=CC=C1)S(=O)(=O)C1(CNCCC1)C(=O)N[C@@H](CC1=C(C=C(C=C1)C1=C(C=CC=C1OC)OC)OCC1=CC=CC=C1)C(=O)O | C36H38N2O8S
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | N-(3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-hydroxyphenylalanine | C1(=CC=CC=C1)S(=O)(=O)C1(CNCCC1)C(=O)N[C@@H](CC1=C(C=C(C=C1)C1=C(C=CC=C1OC)OC)O)C(=O)O | C29H32N2O8S
